US04296114
1-(4-Chlorophenyl)-1,2-dihydro-3-(N-piperidyl)quinoxalin-2-one
A solution of 3-chloro-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one (7.5 g), piperidine (2.4 g), and triethylamine (2.9 g) in ethanol (50 ml) was stirred at 20° C. for 2 hours. Water was added and the product was extracted into chloroform. Evaporation of the solvent and recrystallisation from ethanol gave the title compound mp 184°-185° C.

reactant | 3-chloro-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one | 7.5 g | ClC=1C(N(C2=CC=CC=C2N1)C1=CC=C(C=C1)Cl)=O | C14H8Cl2N2O
reactant | piperidine | 2.4 g | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-Chlorophenyl)-1,2-dihydro-3-(N-piperidyl)quinoxalin-2-one | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)N1CCCCC1)=O | C19H18ClN3O
